US08067457B2
rel-N-{2-[((3R,4R)-4-(allyloxy)-1-{1-[4-(morpholin-4-ylcarbonyl)phenyl]piperidin-4-yl}pyrrolidin-3-yl)amino]-2-oxoethyl}-3-(trifluoromethyl)benzamide (83)
To the solution of rel-N-(2-{[(3R,4R)-4-(allyloxy)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide (60 mg, 0.16 mmol) in methanol (5 mL) was added 1-[4-(morpholin-4-ylcarbonyl)phenyl]piperidin-4-one (70 mg, 0.24 mmol) and sodium triacetoxyborohydride (68.5 mg, 0.32 mmol). The reaction mixture was stirred at room temperature overnight. The reaction was quenched by adding water (5 mL), and mixture then was extracted with EtOAc (15 mL×3). The organic phases were combined, dried over MgSO4, filtered, concentrated under reduced pressure and subjected to column chromatography (ethyl acetate, methanol and ammonium hydroxide (85:15:1) to afford the title compound (57 mg, 55%) as a white solid. 1H-NMR (CDCl3) δ: 1.44-1.62 (m, 2H), 1.79-1.88 (m, 2H), 2.00-2.18 (m, 2H), 2.24-2.37 (m, 2H), 2.61-2.68 (m, 4H), 3.25-3.33 (r, 1H), 3.59-3.68 (m, 8H), 3.78-3.79 (m, 1H), 3.92-3.99 (m, 1H), 4.05 (d, J=4.8 Hz, 2H), 4.08-4.16 (m, 1H), 4.27 (b, 1H), 5.09-5.25 (m, 2H), 5.76-5.89 (m, 1H), 6.81 (d, J=8.4 Hz, 2H), 7.27 (d, J=8.1 Hz, 2H), 7.47-7.52 (m, 1H), 7.70 (d, J=8.1 Hz, 1H), 7.94 (d, J=8.4 Hz, 1H), 8.03 (s, 1H). MS m/z: 644 (M+1).

reactant | rel-N-(2-{[(3R,4R)-4-(allyloxy)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide | 0.16 mmol, 60 mg | C(C=C)O[C@H]1[C@@H](CNC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C17H20F3N3O3
reactant | 1-[4-(morpholin-4-ylcarbonyl)phenyl]piperidin-4-one | 0.24 mmol, 70 mg | N1(CCOCC1)C(=O)C1=CC=C(C=C1)N1CCC(CC1)=O | C16H20N2O3
reactant | sodium triacetoxyborohydride | 0.32 mmol, 68.5 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | rel-N-{2-[((3R,4R)-4-(allyloxy)-1-{1-[4-(morpholin-4-ylcarbonyl)phenyl]piperidin-4-yl}pyrrolidin-3-yl)amino]-2-oxoethyl}-3-(trifluoromethyl)benzamide | 57 mg, 55% | C(C=C)O[C@H]1[C@@H](CN(C1)C1CCN(CC1)C1=CC=C(C=C1)C(=O)N1CCOCC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C33H40F3N5O5
